US07115741B2
4-Chlorophenylboronic acid (501 mg) was combined with 4-iodobenzoic acid (795 mg), cesium carbonate (5.22 g), toluene (16 mL), water (8 mL) and n-butanol (4 mL). The mixture was degassed under vacuum with argon purging after which, tetrakis-triphenylphosphine palladium (40 mg) was added. The reaction was heated to 80° C. for 20 hours after which, it was cooled to room temperature and diluted with ethyl acetate (16 mL). The solids were collected on a Celite pad and washed with hot methanol. The methanol filtrate was concentrated to dryness giving 4′-chloro-4-biphenylcarboxylic acid (305 mg). Yield=41%

reactant | 4-Chlorophenylboronic acid | 501 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | 4-iodobenzoic acid | 795 mg | IC1=CC=C(C(=O)O)C=C1 | C7H5IO2
reactant | cesium carbonate | 5.22 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | toluene | 16 mL | C1(=CC=CC=C1)C | C7H8
solvent | n-butanol | 4 mL | C(CCC)O | C4H10O
solvent | water | 8 mL | O | H2O
product | 4′-chloro-4-biphenylcarboxylic acid | 305 mg, Yield=41% | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C13H9ClO2
